US04104382
Anhydrous ethylamino (9.0 g) was added to a solution of N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea (5.0 g), prepared from 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole by the procedure of Example 97, in ethanol. The solution was heated under reflux for 8 hours and concentrated under reduced pressure. The residue was dissolved in isopropyl alcohol, filtered, and diluted with water. The white solid obtained was recrystallised from isopropyl alcohol-ether to yield N-cyano-N'-ethyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine, m.p. 118°-120°. (Found: C, 49.6; H, 6.8; N, 31.2; S, 11.7. C11H18N6S requires: C, 49.6; H, 6.8; N, 31.6; S, 12.0).

reactant | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea | 5.0 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole | CC=1N=CNC1CSCCN | C7H13N3S
solvent | ethanol | C(C)O | C2H6O
product | N-cyano-N'-ethyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CN1)C)NCC | C11H18N6S
